US05968688
2 g of 1,2,3,4-Tetrafluoroanthraquinone and 25 g of 2,6-diethylaniline were charged in a 50 cc, four necked flask and the reaction was carried out at 160° C. for about 8 hours. After completion of reaction, 2,6-diethylaniline was distilled out from the reaction solution and then a column purification using a column with a silica gel was effected to give rise to 2.87 g of 2,3-bis(2,6-diethylanilino)-1,4-difluoroanthraquinone (Dye 23') (yield 74.6 mol %). The physical properties of Dye 23' and analytical values defining the compound are tabulated in table 24.

reactant | 1,2,3,4-Tetrafluoroanthraquinone | 2 g | FC1=C(C(=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)F)F)F | C14H4F4O2
reactant | 2,6-diethylaniline | 25 g | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
product | 2,3-bis(2,6-diethylanilino)-1,4-difluoroanthraquinone | 2.87 g | C(C)C1=C(NC2=C(C=3C(C4=CC=CC=C4C(C3C(=C2NC2=C(C=CC=C2CC)CC)F)=O)=O)F)C(=CC=C1)CC | C34H32F2N2O2
